US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde
A solution of 3-[3-(dibromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.500 g, 0.00100 mol) in a dioxane/water mixture (5:2) is treated with silver nitrate (0.340 g, 0.00200 mol), refluxed for 90 minutes, cooled to and stirred at room temperature overnight, refluxed for three hours, cooled, and filtered through a pad of diatomaceous earth. The resultant filtrate is concentrated in vacuo to obtain an aqueous mixture. The aqueous mixture is extracted with methylene chloride. The organic extract is washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. Column chromatography of the solid using silica gel and methylene chloride gives the title product as a solid (0.240 g, mp 193-194.5° C.).

reactant | 3-[3-(dibromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00100 mol, 0.500 g | BrC(C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)Br | C14H8Br2F3N3O2S
reactant | dioxane water | O1CCOCC1.O
catalyst | silver nitrate | 0.00200 mol, 0.340 g | [N+](=O)([O-])[O-].[Ag+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde | 0.240 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
